US08022073B2
1.38 g of 5-(4-chloro-phenyl)-6-methyl-4-(3-thienyl)-2H-pyridazin-3-on e and 6 ml of phosphorus oxychloride were mixed. The mixture was stirred for 1 hour on an oil bath of 110° C. The reaction mixture was allowed to cool to room temperature, then, concentrated under reduced pressure. To the resultant residue was added ethyl acetate and ice water. The mixture was stirred for about 5 minutes at room temperature, then, liquid-partitioned. The organic layer was washed with brine three times, and dried over anhydrous magnesium sulfate, then, concentrated under reduced pressure, to obtain 1.34 g of 3-chloro-5-(4-chlorophenyl)-6-methyl-4-(3-thienyl)pyridazine (hereinafter, described as compound (9) of the present invention.).

reactant | 5-(4-chloro-phenyl)-6-methyl-4-(3-thienyl)-2H-pyridazin-3-on e | 1.38 g | ClC1=CC=C(C=C1)C1=C(C(NN=C1C)=O)C1=CSC=C1 | C15H11ClN2OS
reactant | phosphorus oxychloride | 6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-chloro-5-(4-chlorophenyl)-6-methyl-4-(3-thienyl)pyridazine | 1.34 g | ClC=1N=NC(=C(C1C1=CSC=C1)C1=CC=C(C=C1)Cl)C | C15H10Cl2N2S
